US04070355
2-(3-aminopropyl)-8-chloro-6-phenyl-1H-s-triazolo[4,3-a][1,5]benzodiazepine-1,5-dione
2.5 g of 2-[3-(t-butoxycarbonylamino)propyl]-8-chloro-6-phenyl-1H-s-triazolo[4,3-a][1,5]benzodiazepine-1,5-dione in 50 ml of trifluoroacetic acid is stirred at room temperature for 2 hours. The reaction is evaporated and the residue is stirred with a solution of 1.9 g of sodium bicarbonate in 400 ml of methanol-water (10:1). After 3 hours the reaction is evaporated and the residue is partitioned between methylene chloride and water. The methylene chloride is washed with water, dried and evaporated to give the title compound.

reactant | 2-[3-(t-butoxycarbonylamino)propyl]-8-chloro-6-phenyl-1H-s-triazolo[4,3-a][1,5]benzodiazepine-1,5-dione | 2.5 g | C(C)(C)(C)OC(=O)NCCCN1NC=2N(C3=C(N(C(C2)=O)C2=CC=CC=C2)C=C(C=C3)Cl)C1=O | C24H26ClN5O4
solvent | trifluoroacetic acid | 50 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-(3-aminopropyl)-8-chloro-6-phenyl-1H-s-triazolo[4,3-a][1,5]benzodiazepine-1,5-dione | NCCCN1NC=2N(C3=C(N(C(C2)=O)C2=CC=CC=C2)C=C(C=C3)Cl)C1=O | C19H18ClN5O2
